US05015775
An isomeric mixture of diethyl benzene (268.44 g, 2.0 moles), anhydrous methane sulfonic acid (96.1 g, 1.0 mole) and phosphorus oxychloride (25.6 g, 2.17 moles) were heated at 90° C. with stirring for 8 hours. Treatment of the reaction mixture after cooling was the same as in Example 1 and 25 g (12% yield) of methyl diethylphenyl sulfone was obtained.

reactant | diethyl benzene | 2.0 moles, 268.44 g | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | methane sulfonic acid | 1.0 mole, 96.1 g | CS(=O)(=O)O | CH4O3S
reactant | phosphorus oxychloride | 2.17 moles, 25.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl diethylphenyl sulfone | 25 g, 12% yield | C(C)C=1C(=C(C=CC1)S(=O)(=O)C)CC | C11H16O2S
